US07842701B2
N-(3-amino-4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl)-2-(4-methyl-1-piperazinyl)ethanesulfonamide
A mixture of 3,7-diamino-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (150 mg), 2-chloroethanesulfonyl chloride (61.8 μl), diisopropylethylamine (108 μl) and tetrahydrofuran (5 ml) was stirred at room temperature for 30 minutes, 1-methylpiperazine (571 μl) and N,N-dimethylformamide (1 ml) were added thereto, and stirred at room temperature for one night. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified with aminopropylated silica gel column chromatography to obtain the target compound (25 mg).

reactant | 3,7-diamino-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 150 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)N)=O)C2=CC=CC=C2 | C16H13N5O
reactant | 2-chloroethanesulfonyl chloride | 61.8 μl | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | diisopropylethylamine | 108 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methylpiperazine | 571 μl | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-(3-amino-4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl)-2-(4-methyl-1-piperazinyl)ethanesulfonamide | 25 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)NS(=O)(=O)CCN2CCN(CC2)C)=O)C2=CC=CC=C2 | C23H27N7O3S
